US07902220B2
a. 3-Bromo-2-tert-butoxy-benzonitrile
A mixture of 3-bromo-2-fluoro-benzonitrile (40.0 g, 0.200 mol) and tetrahydrofuran (200 mL) was chilled to 0° C. and stirred for 5 min. A solution of potassium tert-butoxide (130 mL, 0.210 mol) was added dropwise at 0° C. and the reaction was allowed to warm to RT with stirring over 90 min. The reaction was quenched with water (200 mL) and 2 M Na2CO3 (100 mL) and extracted with EtOAc (3×200 mL). The organic layer was dried over Na2SO4 and the solvent was removed by rotary evaporation to provide the title compound as a light yellow oil.

reactant | 3-bromo-2-fluoro-benzonitrile | 0.200 mol, 40.0 g | BrC=1C(=C(C#N)C=CC1)F | C7H3BrFN
reactant | potassium tert-butoxide | 0.210 mol, 130 mL | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 3-Bromo-2-tert-butoxy-benzonitrile | BrC=1C(=C(C#N)C=CC1)OC(C)(C)C | C11H12BrNO
